US06340759B1
3-(2,4,5-Trimethoxyphenyl)isoquinolin-1-one obtained by reacting N-methyl-o-toluamide (1.50 g) and 2,4,5-trimethoxybenzonitrile (1.93 g) according to Example 10-1 was reacted with phosphorous oxychloride (10 ml) according to Example 10-2, to give 1-chloro-3-(2,4,5-trimethoxyphenyl)isoquinoline, which was then reacted with N-ethylpiperazine (15 ml) at 120° C. for 5 hr. The reaction solution was evaporated, and to the resulting residue were added ethyl acetate and water. The resulting organic layer was washed with water and brine, and then dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give the free compound of the title compound as a pale yellow oil.

reactant | N-methyl-o-toluamide | 1.50 g | CNC(=O)C=1C(=CC=CC1)C | C9H11NO
reactant | 2,4,5-trimethoxybenzonitrile | 1.93 g | COC1=C(C#N)C=C(C(=C1)OC)OC | C10H11NO3
reactant | phosphorous oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-3-(2,4,5-trimethoxyphenyl)isoquinoline | ClC1=NC(=CC2=CC=CC=C12)C1=C(C=C(C(=C1)OC)OC)OC | C18H16ClNO3
